US07022707B2
cis-4-chlorocarbonyl-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester was prepared in analogy to 4-chlorocarbonyl-piperazine-1-carboxylic acid tert-butyl ester from cis-2,6-dimethylpiperazine-1-carboxylic acid tert-butyl ester (A. Muehlebach, P. Pino, Helv. Chim. Acta 73, 839 (1990)) by a modified procedure of Rhone-Poulenc DE 25 50 111 (Rhone-Poulenc).

reactant | 4-chlorocarbonyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)Cl | C10H17ClN2O3
reactant | cis-2,6-dimethylpiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CNC[C@H]1C)C | C11H22N2O2
product | cis-4-chlorocarbonyl-2,6-dimethyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(C[C@H]1C)C(=O)Cl)C | C12H21ClN2O3
